US04173490
(3,4-epoxycyclohexyl)ethyltrimethoxysilane.
The coating composition according to claim 1 wherein about 57 weight percent tetraethyl orthosilicate, about 28 weight percent methyltrimethoxysilane and about 15 weight percent bis(2-hydroxyethyl)aminopropyltriethoxysilane were hydrolyzed with a mixture of water, alcohol and acetic acid and then aged.

reactant | tetraethyl orthosilicate | [Si](OCC)(OCC)(OCC)OCC | C8H20O4Si
reactant | methyltrimethoxysilane | C[Si](OC)(OC)OC | C4H12O3Si
reactant | bis(2-hydroxyethyl)aminopropyltriethoxysilane | OCCN(CCO)CCC[Si](OCC)(OCC)OCC | C13H31NO5Si
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | (3,4-epoxycyclohexyl)ethyltrimethoxysilane | O1C2CC(CCC21)CC[Si](OC)(OC)OC | C11H22O4Si
